US05244908
Synthesis of 5-[3-[2-(phenyl)ethylcarbonyloxy]propylthio]imidazo[1,2-a]pyridine (Compound 176)
To a solution of 5-[3-(hydroxy)propylthio]imidazo[1,2-a]pyridine (1.00 g, 4.80 mmoles) and triethylamine (0.80 ml, 5.74 mmoles) in methylene chloride (25 ml) was added 3-phenylpropionyl chloride (1.01 g, 5.99 mmoles) with stirring at room temperature and the mixture was further stirred at room temperature for 2 hours. The reaction mixture was washed with an aqueous 1N sodium hydroxide solution and dried. After the solvent was distilled off, the residue was purified by column chromatography [eluent: hexane/acetone (1:1)] to obtain 1.37 g of the desired product (84.2%, yellow oily product).

reactant | 5-[3-(hydroxy)propylthio]imidazo[1,2-a]pyridine | 4.80 mmoles, 1.00 g | OCCCSC1=CC=CC=2N1C=CN2 | C10H12N2OS
reactant | triethylamine | 5.74 mmoles, 0.80 ml | C(C)N(CC)CC | C6H15N
reactant | 3-phenylpropionyl chloride | 5.99 mmoles, 1.01 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 5-[3-[2-(phenyl)ethylcarbonyloxy]propylthio]imidazo[1,2-a]pyridine | 1.37 g, 84.2% | C1(=CC=CC=C1)CCC(=O)OCCCSC1=CC=CC=2N1C=CN2 | C19H20N2O2S
